.SUBCKT sg13g2_xnor2_4 Y A B VDD VSS
*.PININFO A:I B:I Y:O VDD:B VSS:B
MP4 Y net1 VDD VDD sg13_lv_pmos m=1 w=4.48u l=130.00n ng=4
MP3 Y B net4 VDD sg13_lv_pmos m=1 w=4.48u l=130.00n ng=4
MP2 net4 A VDD VDD sg13_lv_pmos m=1 w=4.48u l=130.00n ng=4
MP1 net1 B VDD VDD sg13_lv_pmos m=1 w=840.00n l=130.00n ng=1
MP0 net1 A VDD VDD sg13_lv_pmos m=1 w=840.00n l=130.00n ng=1
MN3 Y net1 net3 VSS sg13_lv_nmos m=1 w=2.96u l=130.00n ng=4
MN1 net2 A VSS VSS sg13_lv_nmos m=1 w=640.00n l=130.00n ng=1
MN0 net1 B net2 VSS sg13_lv_nmos m=1 w=640.00n l=130.00n ng=1
MN4 net3 B VSS VSS sg13_lv_nmos m=1 w=2.96u l=130.00n ng=4
MN2 net3 A VSS VSS sg13_lv_nmos m=1 w=2.96u l=130.00n ng=4
.ENDS
